US06528510B1
(S)-4-Hydroxy-6-isopropyl-6-(2-thiophen-3-yl-ethyl)-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 8 using (S)-hydroxy-6-methyl-3-oxo-5-(2-thiophen-3-yl-ethyl)-heptanoic acid ethyl ester (6.4 mmol), 0.1N NaOH (400 mL), and THF (40 mL). The product was triturated from Et2O, mp 117-123° C.

reactant | (S)-hydroxy-6-methyl-3-oxo-5-(2-thiophen-3-yl-ethyl)-heptanoic acid ethyl ester | 6.4 mmol | C(C)OC([C@H](C(CC(C(C)C)CCC1=CSC=C1)=O)O)=O | C16H24O4S
reactant | NaOH | 0.1N, 400 mL | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (S)-4-Hydroxy-6-isopropyl-6-(2-thiophen-3-yl-ethyl)-5,6-dihydro-pyran-2-one | OC1=CC(O[C@](C1)(CCC1=CSC=C1)C(C)C)=O | C14H18O3S
